US05567391
5-cyclohexyl-1,3-dihydro-3-(4-hydroxyphenyl)-2H1,4-benzodiazepin-2-one;
1,3-dihydro-3-(4-hydroxyphenyl)-5-(2-thienyl)-2H-1,4-benzodiazepin2-one; 1,3-dihydro-3-(1H-indol-2-ylmethyl)-5-phenyl-2H-1,4-benzodiazepin-2-one; 7-chloro-1,3-dihydro-3-(1H-indol-2-ylmethyl)-5-phenyl-2H-1,4-benzodiazepin-2-one;

reactant | 1,3-dihydro-3-(4-hydroxyphenyl)-5-(2-thienyl)-2H-1,4-benzodiazepin2-one | OC1=CC=C(C=C1)C1C(NC2=C(C(=N1)C=1SC=CC1)C=CC=C2)=O | C19H14N2O2S
reactant | 1,3-dihydro-3-(1H-indol-2-ylmethyl)-5-phenyl-2H-1,4-benzodiazepin-2-one | N1C(=CC2=CC=CC=C12)CC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O | C24H19N3O
reactant | 7-chloro-1,3-dihydro-3-(1H-indol-2-ylmethyl)-5-phenyl-2H-1,4-benzodiazepin-2-one | ClC=1C=CC2=C(C(=NC(C(N2)=O)CC=2NC3=CC=CC=C3C2)C2=CC=CC=C2)C1 | C24H18ClN3O
product | 5-cyclohexyl-1,3-dihydro-3-(4-hydroxyphenyl)-2H1,4-benzodiazepin-2-one | C1(CCCCC1)C1=NC(C(NC2=C1C=CC=C2)=O)C2=CC=C(C=C2)O | C21H22N2O2
